US05104867
14-(3) (2S)-2-(4-Methoxybenzylthiomethyl)-1-methylpyrrolidine
The procedure described in preparation 5-(4) was repeated, but using 2 g of (2S)-2-(4-methoxybenzylthio-methyl)pyrrolidine, 35% formalin and 848 mg of sodium cyanoborohydride in the presence of 44 ml of acetonitrile, to afford 883 mg of the title compound as an oil.

reactant | (2S)-2-(4-methoxybenzylthio-methyl)pyrrolidine | 2 g | COC1=CC=C(CSC[C@H]2NCCC2)C=C1 | C13H19NOS
reactant | formalin | C=O | CH2O
reactant | sodium cyanoborohydride | 848 mg | C(#N)[BH3-].[Na+]
solvent | acetonitrile | 44 ml | C(C)#N | C2H3N
product | (2S)-2-(4-Methoxybenzylthiomethyl)-1-methylpyrrolidine | 883 mg | COC1=CC=C(CSC[C@H]2N(CCC2)C)C=C1 | C14H21NOS
